US06949579B2
N-[5-phenyl-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide
821 mg of phenylboronic acid, 1.14 g of sodium carbonate in 30 cm3 of distilled water and finally 347 mg of tetrakis(triphenylphosphine)palladium are added to 2 g of N-[5-bromo-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described in Example 58, in 180 cm3 of dioxane. The mixture is refluxed for 90 minutes and is then allowed to return to 20° C. to add 100 cm3 of ethyl acetate and 100 cm3 of distilled water. The organic phase is washed with 100 cm3 of saturated aqueous sodium chloride solution and then separated out after settling of the phases has taken place and dried over magnesium sulphate. After filtration, the filtrate is concentrated to dryness under reduced pressure (2 kPa; 50° C.) and the residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4.5 cm), eluting with a cyclohexane/ethyl acetate mixture (80/20 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). After drying (90 Pa; 45° C.), 2 g of N-[5-phenyl-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide are thus obtained in the form of a yellow oil.

reactant | phenylboronic acid | 821 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 1.14 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-[5-bromo-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 2 g | BrC=1C=C2C(=NN(C2=CC1Cl)COCC[Si](C)(C)C)NC(CCC)=O | C17H25BrClN3O2Si
reactant | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 30 cm3 | O | H2O
solvent | dioxane | 180 cm3 | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 347 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 100 cm3 | O | H2O
product | N-[5-phenyl-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | C1(=CC=CC=C1)C=1C=C2C(=NN(C2=CC1Cl)COCC[Si](C)(C)C)NC(CCC)=O | C23H30ClN3O2Si
